US05278316
Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[[2-(2-pyrazinyl)ethyl]amino]ethyl]carbamate
A room temperature solution of 0.40 g (1.01 mmol) of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan and 0.15 g (1.11 mmol) of 1-hydroxybenzotriazole hydrate in 15 mL of anhydrous ethyl acetate under N2 atmosphere was treated with 0.23 g (1.11 mmol) of 1,3-dicyclohexylcarbodiimide in one portion. The reaction was stirred for 1.75 hours and treated with 0.12 g (1.22 mmol) of triethylamine and 0.17 g (1.07 mmol) of 2-pyrazineethaneamine hydrochloride. The reaction as stirred for 1.75 hours and filtered. The filtrate was washed with aqueous 1M citric acid (2×15 mL), saturated aqueous NaHCO3 (2×15 mL), and saturated aqueous NaCl (15 mL), dried over Na2SO4, and concentrated in vacuo. The residue was treated with 1,2-dimethoxyethane (5 mL), allowed to stand at 0°-5° C. for 16 hours, filtered, and concentrated in vacuo. Chromatography (flash, SiO2, 230-400 mesh, 0.5% triethylamine/10% isopropanol/ethyl acetate eluant, 15×2.5 cm) gave a clear oil upon solvent removal. The residue was dissolved in methanol (10 mL) and water (1 mL) and concentrated in vacuo until a solid formed. The solid was suspended in water, filtered, and dried to give 0.32 g (63%) of the desired product as a white solid; mp 97°-101° C.; 1H NMR (CDCl3) δ 1.4-2.0 (17H, m), 2.87 (2H, m), 3.29 (1H, d, J 15 Hz), 3.46 (1H, d, J 15 Hz), 3.62 (2H, m), 4.74 (1H, br s), 5.23 (1H, br s), 6.95 (2H, br s), 7.0-7.2 (2H, m), 7.33 (1H, d, J 8 Hz), 7.58 (1H, d, J 8 Hz), 8.20 (1H, br s), 8.37 (2H, s), 8.38 (1H, s).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 1.01 mmol, 0.40 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | 1-hydroxybenzotriazole hydrate | 1.11 mmol, 0.15 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 1.11 mmol, 0.23 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 1.22 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-pyrazineethaneamine hydrochloride | 1.07 mmol, 0.17 g | Cl.N1=C(C=NC=C1)CCN
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Tricyclo[3.3.1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[[2-(2-pyrazinyl)ethyl]amino]ethyl]carbamate | 0.32 g, 63% | N1C=C(C2=CC=CC=C12)CC(C(NCCC1=NC=CN=C1)=O)(C)NC(OC1C2CC3CC(CC1C3)C2)=O | C29H35N5O3
